US06780855B2
A solution of 1.0 g of 11β-fluoro-3-hydroxy-7α-(5-iodopentyl)-estra-1,3,5(10)-trien-17-one in 10 ml of dimethylformamide is stirred with 0.24 ml of pyrrolidine for 2 hours at a bath temperature of 100° C. Then, it is added to saturated sodium bicarbonate solution, extracted three times with methylene chloride, dried on magnesium sulfate, concentrated by evaporation in a vacuum and chromatographed on silica gel with dichloromethane/methanol/triethylamine. 367 mg of 11β-fluoro-3-hydroxy-7α-(5-pyrrolidin-1-yl-pentyl)-estra-1,3,5(10)-trien-17-one is obtained as a foam.

reactant | 11β-fluoro-3-hydroxy-7α-(5-iodopentyl)-estra-1,3,5(10)-trien-17-one | 1.0 g | F[C@@H]1[C@@H]2C=3C=CC(=CC3C[C@H]([C@H]2[C@@H]2CCC([C@@]2(C)C1)=O)CCCCCI)O | C23H30FIO2
reactant | pyrrolidine | 0.24 ml | N1CCCC1 | C4H9N
reactant | sodium bicarbonate | C([O-])(O)=O.[Na+]
solvent | dimethylformamide | 10 ml | CN(C=O)C | C3H7NO
product | 11β-fluoro-3-hydroxy-7α-(5-pyrrolidin-1-yl-pentyl)-estra-1,3,5(10)-trien-17-one | 367 mg | F[C@@H]1[C@@H]2C=3C=CC(=CC3C[C@H]([C@H]2[C@@H]2CCC([C@@]2(C)C1)=O)CCCCCN1CCCC1)O | C27H38FNO2
